US05053396
Pyrilamine maleate
Tripelennamine hydrochloride (or citrate)

reactant | Tripelennamine hydrochloride | CN(C)CCN(CC=1C=CC=CC1)C=2C=CC=CN2.Cl
reactant | citrate | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
product | Pyrilamine maleate | CN(C)CCN(CC=1C=CC(=CC1)OC)C=2C=CC=CN2.C(=C\C(=O)O)\C(=O)O | InChI=1S/C17H23N3O.C4H4O4/c1-19(2)12-13-20(17-6-4-5-11-18-17)14-15-7-9-16(21-3)10-8-15;5-3(6)1-2-4(7)8/h4-11H,12-14H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
